### PR TITLE
Add graph minors (ForMathlib) and Hadwiger's conjecture

### PR DESCRIPTION
**Pull request by henrykmichalewski**
Adds Hadwiger's conjecture, together with the graph-minor infrastructure it needs (Mathlib has no notion of minor as of 2026-08).

**ForMathlib** — new `FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Minor.lean`: `IsMinorModel H G B` (pairwise disjoint, nonempty, connected branch sets `B w ⊆ V(G)` with every edge of `H` realised between branch sets) and `IsMinor H G` (scoped notation `≼`). Proved: `IsMinor.refl`, `IsMinor.mono_left` / `mono_right`, `IsMinor.of_le`, and `IsMinor.card_le`.

**Problem file** — `FormalConjectures/Wikipedia/HadwigerConjecture.lean`:

| Declaration | Content | Status |
|---|---|---|
| `hadwigerNumber` | $h(G) = \max\{k : K_k \preccurlyeq G\}$ | definition |
| `hadwiger_conjecture` | $\chi(G) \ge k \Rightarrow K_k \preccurlyeq G$ | `research open` |
| `.variants.le_four`, `.five`, `.six` | Hadwiger/Dirac; Wagner ⇔ 4CT; Robertson–Seymour–Thomas 1993 | `sorry` + references |
| `.variants.linear` | linear Hadwiger conjecture | `research open` |
| `.variants.kostochka_thomason` | $O(k\sqrt{\log k})$ colours | `sorry` + reference |
| `.variants.le_one` | the cases $k \le 1$ | **proved** |

Umbrella regenerated with `scripts/mk_all_formathlib.sh`.

### Verification
`lake build` of both modules on v4.33.1: clean, all linters pass.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: FormalConjectures/Wikipedia/HadwigerConjecture.lean [hunk 1]
```diff
@@ -0,0 +1,188 @@
...
+*Reference:* [RST93].
+-/
+@[category research solved, AMS 5]
+theorem hadwiger_conjecture.variants.six
+    {V : Type} [Fintype V] (G : SimpleGraph V)
+    (h : (6 : ℕ∞) ≤ G.chromaticNumber) : (completeGraph (Fin 6)).IsMinor G := by
+  sorry
+
+/--
+**The linear Hadwiger conjecture (open).**
```
Comment (mo271) [inline FormalConjectures/Wikipedia/HadwigerConjecture.lean]:
```suggestion
**The linear Hadwiger conjecture.**
```
Let's record the status of the conjectue not in the docstring: this way we only have to update it in one place when it gets solved...

File: FormalConjectures/Wikipedia/HadwigerConjecture.lean [hunk 2]
```diff
@@ -0,0 +1,188 @@
...
+
+/--
+**The case $k = 5$ (Wagner 1937; equivalent to the four colour theorem).**
+
+Wagner showed that the case $k = 5$ is equivalent to the four colour theorem, which was proved
+by Appel and Haken (1976) and Robertson, Sanders, Seymour and Thomas (1997).
+
+*Reference:* [Wa37].
+-/
+@[category research solved, AMS 5]
```
Comment (mo271) [inline FormalConjectures/Wikipedia/HadwigerConjecture.lean]: Let's link Gonthier's roqc formalistaion (which is still maintained!)
```suggestion
@[category research solved, AMS 5, formal_proof using other at
"https://github.com/rocq-community/fourcolor"]
```

File: FormalConjectures/Wikipedia/HadwigerConjecture.lean [hunk 3]
```diff
@@ -0,0 +1,188 @@
...
+  sSup {k | (completeGraph (Fin k)).IsMinor G}
+
+/--
+**Hadwiger's conjecture (1943).**
+
+Every finite graph $G$ with chromatic number $\chi(G) \ge k$ has the complete graph $K_k$ as a
+minor. Equivalently, $\chi(G) \le h(G)$ where $h(G)$ is the Hadwiger number.
+-/
+@[category research open, AMS 5]
+theorem hadwiger_conjecture : answer(sorry) ↔
```
Comment (mo271) [inline FormalConjectures/Wikipedia/HadwigerConjecture.lean]:
```suggestion
theorem hadwiger_conjecture :
```

Since this is not a question, perhaps without `answer(sorry)`?

File: FormalConjectures/Wikipedia/HadwigerConjecture.lean [hunk 4]
```diff
@@ -0,0 +1,188 @@
...
+
+/--
+**The linear Hadwiger conjecture (open).**
+
+There is a constant $C$ such that every graph with no $K_k$ minor is $Ck$-colourable. The best
+known bound is $O(k \log \log k)$ (Delcourt–Postle [DP21]), improving Kostochka's and
+Thomason's $O(k \sqrt{\log k})$ [Ko84].
+-/
+@[category research open, AMS 5]
+theorem hadwiger_conjecture.variants.linear : answer(sorry) ↔
```
Comment (mo271) [inline FormalConjectures/Wikipedia/HadwigerConjecture.lean]:
```suggestion
theorem hadwiger_conjecture.variants.linear :
```
same here

**Review by mo271 — COMMENTED** [review]
Thanks, LGTM mathematically. 

This is a duplicate of #296, which was stuck mainly on some missing Mathlib stuff?
Please coordinate with @AlexKontorovich how to proceed. 

Also @YaelDillies opinion would be valued here.

File: FormalConjectures/Wikipedia/HadwigerConjecture.lean [hunk 5]
```diff
@@ -0,0 +1,188 @@
...
+      (G.chromaticNumber.toNat : ℝ) ≤ C * k * Real.sqrt (Real.log k) := by
+  sorry
+
+/--
+**The cases $k \le 1$.**
+
+`K_0` is a minor of every graph (empty family of branch sets), and `K_1` is a minor of every
+graph with a vertex, which is guaranteed by $\chi(G) \ge 1$.
+-/
+@[category research solved, AMS 5]
```
Comment (mo271) [inline FormalConjectures/Wikipedia/HadwigerConjecture.lean]:
```suggestion
@[category test AMS 5]
```
or `textbook`

File: FormalConjectures/Wikipedia/HadwigerConjecture.lean [hunk 6]
```diff
@@ -0,0 +1,188 @@
...
+    · exact (isMinorModel_singleton G).connected v
+    · exact absurd (Subsingleton.elim i j) hij.ne
+
+/--
+**The case $k = 2$.**
+
+A graph with chromatic number at least $2$ has an edge, and the two endpoints of an edge form
+a $K_2$-model.
+-/
+@[category research solved, AMS 5]
```
Comment (mo271) [inline FormalConjectures/Wikipedia/HadwigerConjecture.lean]:
```suggestion
@[category test, AMS 5]
```
or `textbook`

**Comment by henrykmichalewski** [comment]
Applied all suggestions: both `answer(sorry)` wrappers are gone (plain universally-quantified statements now), the Wagner/4CT variant carries `formal_proof using other_system at "https://github.com/rocq-community/fourcolor"`, the `k ≤ 1` and `k = 2` cases are `category test`, and the linear-Hadwiger docstring no longer records its status.

On the overlap with #296 (@AlexKontorovich, @YaelDillies): the two take different routes to minors. #296 defines them via edge contraction, which needed the `SimpleGraph'` detour and is blocked on the Mathlib refactor (leanprover-community/mathlib4#33466). This PR instead uses the branch-set (minor-model) characterisation — disjoint nonempty connected branch sets with edges realised between them — which works with today's `SimpleGraph` and needs no Mathlib changes; reflexivity/monotonicity/`card_le` are already proved against it. The two definitions are equivalent for finite graphs, so once the Mathlib contraction refactor lands, a bridge lemma `IsMinor ↔ (contraction-based minor)` could connect them and #296's approach could supersede or complement this file. Happy to proceed whichever way you prefer: land the branch-set version now and refactor later, or hold for #296 — I defer to you both on that.

**Comment by YaelDillies** [comment]
Graph minors need careful thought. It is one of the topics I intend to tackle next week during the FC workshop, so let me come back to you then.

**Comment by henrykmichalewski** [comment]
Sounds great — happy to wait for the workshop's design and adapt this PR (or fold it into whatever structure you settle on). The branch-set model here and the contraction model in #296 should be interderivable, so whichever direction you pick, I can rework accordingly.
